US08614209B2
1-[4-(5-Phenyl-thiophene-3-carbonyl)-[1,4]diazepan-1-yl]-ethanone (AA-27)
5-Phenyl-thiophene-3-carboxylic acid (0.1 g, 0.5 mmol) was dissolved in DMF (3 mL). 1-[1,4]Diazepan-1-yl-ethanone (0.5 mmol), DIPEA (1.5 mmol) and HATU (0.5 mmol) were added and the reaction mixture stirred for 0.5 hours. Ethyl acetate (20 mL) was added and the organic solution was washed with 1 N hydrochloric acid, dried with magnesium sulfate, filtered and the solvent removed by evaporation. The residue was purified by HPLC, eluting with 70%-90% acetonitrile in water (0.1% formic acid) over 30 minutes. The fractions containing the desired product were concentrated under vacuum and freeze-dried to give the title compound (28 mg). LCMS m/z 329.20 [M+H]+ R.T.=8.20 min (Analytical Method 1). 1H NMR (400 MHz, CHCl3-d): δ 7.6 (m, 2H), 7.55-7.3 (m, 5H), 3.9-3.5 (m, 8H), 2.1 (s, 3H), 2.0-1.3.2 (m, 2H).

reactant | 5-Phenyl-thiophene-3-carboxylic acid | 0.5 mmol, 0.1 g | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)O | C11H8O2S
reactant | 1-[1,4]Diazepan-1-yl-ethanone | 0.5 mmol | N1(CCNCCC1)C(C)=O | C7H14N2O
reactant | DIPEA | 1.5 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.5 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-(5-Phenyl-thiophene-3-carbonyl)-[1,4]diazepan-1-yl]-ethanone | 28 mg | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)N1CCN(CCC1)C(C)=O | C18H20N2O2S
